US05254726
(1S)-(-)-α-pinene, 6-nitropiperonal, boron tribromide, glycine ethyl ester, lithium aluminum hydride (1M in diethyl ether) and thionyl bromide were obtained from Aldrich. Glycine t-butyl ester was purchased from Sigma Chemical Company. Hydroxylamine (free base) was obtained from Southwestern Analytic Chemicals, Inc. 6-Fluoronorepinephrine was purchased from RBI (Research Biochemicals Inc.). Dopamine and dopamine β-hydroxylase was obtained from the Sigma Chemical Co. 1H NMR spectra were also recorded with a Brucker 300 MHz in CDCl3 as a solvent using TMS as internal reference. Mass spectra were recorded with a Finnegan-Mat GC-MS 5100 mass spectrometer using electron impact ionization at 70 eV. HPLC analyses were carried out with a Perkin-Elmer liquid chromatograph equipped with a radioactivity monitor and UV detector. Optical rotation analysis was performed by Rudolph Instruments, Inc.

reactant | (1S)-(-)-α-pinene | CC1=CCC2C[C@@H]1C2(C)C | C10H16
reactant | 6-nitropiperonal | C1OC2=C(O1)C=C(C(=C2)C=O)[N+](=O)[O-] | C8H5NO5
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | Glycine t-butyl ester | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | Hydroxylamine | NO | H3NO
reactant | 6-Fluoronorepinephrine | C1=C(C(=CC(=C1O)O)F)C(CN)O | C8H10FNO3
product | dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
